Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was addicted to drugs and felt like I wanted to kill myself." 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation note by Dr. ___ 
dated ___,  and Dr. ___ dated ___, 
admission note by Dr. ___ dated ___. 
. 
Briefly, this is a single ___ year old homeless, ___, 
primarily ___ speaking only man, unclear psychiatric 
history, longstanding history of opiate use disorder, who self 
presented to ___ reporting CAH of voices telling him to kill 
himself and others. 
. 
Patient notably a limited historian in the ED; however, reported 
he started hearing the voices on the morning of presentation 
that have repetitively telling him to kill himself and others. 
Reported a prior episode of AH when he tried to hang himself, 
stating he was hospitalized at that time and started on Prozac 
and clonazepam. Reported he felt as if someone was following him 
and did not feel safe. Reported feeling afraid and that he might 
act on the voices. Endorsed using heroin approximately 3 days 
prior to presentation. 
. 
ED Course: patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
. 
On my admission with Mr. ___, who was seen with a ___ 
interpreter, and was notably an inconsistent historian, patient 
reported he came to the hospital because "I was addicted to 
drugs and felt like I wanted to kill myself." Reported he had 
been hearing voices since ___ of a single voice that said, "I 
should take my life." Reported he has heard voices in the past
when he is using heroin. Denies hearing voices at this time.  
. 
Mr. ___ reported longstanding history of opiate dependence, 
starting at approximately ___ years of age without any periods of 
sobriety. Reported he has been snoring ___ grams per day with 
last use on ___. Denied other drug use. Stated he had been in 
___ but moved to ___, following his now 
ex-girlfriend here. However, stated they broke up after "going 
our separate ways" about 7 months ago and notes he has been 
homeless since this time, staying mostly at ___. 
. 
In the setting of significant substance use, patient did report 
depression but endorsed "okay" sleep. Denied difficulties with 
energy, concentration. Reported some decreased appetite. 
Reported passive SI on my examination but denied intent or plan. 
On psychiatric review of systems, patient denied history of 
manic symptoms, although noted that he can go approximately ___ 
days without sleep when using drugs with some increased energy. 
However, denied history of hypersexuality, worsening 
impulsivity, grandiosity. Denied VH, paranoia, thought insertion 
or broadcasting. Denied alcohol or other illicit drug use. 
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: no clear formal diagnoses 
- SA/SIB: in ED, patient reported history of SA via hanging in
___, denies history of prior suicide attempts or SIB on 
admission
- Hospitalizations: in ED, patient reported history of prior
psychiatric hospitalization, denied on admission
- Psychiatrist: denies
- Therapist: denies
- Medication Trials: Denies prior medication trials on 
admission,
but reported trial of Prozac and clonazepam in ED. 

Past Medical History: 
- Denies 

Substance History:  
- Alcohol: Denies 
- Illicits: reports history of opiate dependence since age ___ 
and reported prior detox in ___. Reported he had been on 
suboxone in the past. Denied other illicit drug use. Denies IVDU
- Tobacco: smokes 1 ppd 

 
Social History:
Substance History:  
- Alcohol: Denies 
- Illicits: reports history of opiate dependence since age ___ 
and reported prior detox in ___. Reported he had been on 
suboxone in the past. Denied other illicit drug use. Denies IVDU
- Tobacco: smokes 1 ppd 
.
Social History: ___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Reported that he did not know in ED, but denied h/o family 
psychiatric diagnoses, suicide attempts, or addictions on 
admission.
 
Physical Exam:
ON ADMISSION:
EXAM:
Vitals: Refused vitals on arrival. 

General: Dressed in hospital attire, appears stated age. In no
acute distress. 
Cardiac: RRR, normal S1 and S2 with no murmurs, rubs, or 
gallops.
Respiratory: Lungs clear to auscultation bilaterally
Abdominal: Normoactive bowel sounds, abdomen soft, nontender,
nondistended. 
Skin: No rashes, lesions, or bruising noted. 

EXAM:  
Neurological:  
-Station and gait: Normal station and gait 
-Tone and strength: ___ in upper and lower extremities b/l, with
normal bulk and tone. 
-Cranial nerves: CN II-XII intact
-Abnormal movements: Noted bilateral tremor on exam right upper
extremity worse than left upper extremity.  
-Frontal release: Not assessed
   
Mental Status:
-Appearance: Hispanic male appearing stated age, in hospital
attire, with gray hair, beard, multiple tattoos over wrist,
covered by a blanket. 
-Behavior: Poor eye contact with mild psychomotor retardation on
exam.  
-Attitude: Guarded, irritable and superficially cooperative 
-Mood: "sleepy"
-Affect: Restricted, dysphoric
-Speech: Normal rate, decreased volume, and tone
-Thought process: Grossly linear and goal directed, though
responses were notable for poverty of speech (very little
elaboration of answers)
-Thought Content:
---Safety: Currently denies any SI or HI, though command 
auditory
hallucinations are continuing to indicate to patient that he
should harm himself and others. Did not appear to be attending 
to
internal stimuli.  
-Insight: Limited
-Judgment: Poor

Cognition: 
Patient stated that he is at ___, today is ___. He stated that current president is ___ and prior was
___, refused to answer what the similarity is between a
"bicycle" and a "train". Patient states there are 5 quarters in
$1.25. Patient did not cooperate with remainder of exam and
requested to sleep. 

ON DISCHARGE:
Mental Status Exam:
Appearance: Well-groomed
facial expression: friendly, smiling on approach
build: WNL
Behavior: engaging, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "OK", euthymic, no anxiety
Thought Process/content: reality oriented, goal directed, denies
SI/HI, denies AH/VH/delusions
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: Grossly intact 
insight: Fair
Judgment: Fair

 
Pertinent Results:
___ 04:15PM BLOOD WBC: 6.5 RBC: 3.91* Hgb: 12.4* Hct: 37.9*
MCV: 97 MCH: 31.7 MCHC: 32.7 RDW: 14.4 RDWSD: 51.0* Plt Ct: 254 
___ 04:15PM BLOOD Neuts: 64.6 Lymphs: ___ Monos: 7.7 Eos:
2.6 Baso: 0.6 Im ___: 0.5 AbsNeut: 4.19 AbsLymp: 1.56 AbsMono:
0.50 AbsEos: 0.17 AbsBaso: 0.04 
___ 04:15PM BLOOD Plt Ct: 254 
___ 04:15PM BLOOD Glucose: 90 UreaN: 17 Creat: 0.9 Na: 140
K: 4.3 Cl: 104 HCO3: 25 AnGap: 11 

-Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.
-Serum tox: Negative for aspirin, benzos, barbituates, ethanol,
TCAs and acetaminophen.

 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
Initial presentation significant for command AH, depressive 
symptoms, and SI in the setting of ongoing heavy opiate use. Of 
note, toxicology screen was negative in the ED, including from 
opiates. Upon admission to Deac 4, reported depressive symptoms 
and AH that had since resolved and MSE was reassuring, with 
denial of AH, SI, and notably linear, logical, goal oriented 
thought process. However, patient appeared physically 
uncomfortable with abdominal pain, muscle pain, GI upset 
consistent with opiate withdrawal symptoms. Diagnostically, 
patient met criteria for opiate use disorder in setting of 
active withdrawal and unspecified psychotic disorder. During 
stay, clarified the origin of his AH with patient, and he 
endorsed only hears voices when snorting opiates. Denies ever 
experiencing AH in other circumstances. As it is not typical for 
opiates to cause psychotic symptoms, is quite possible that the 
opiates were laced with some other drugs. As such, patient did 
not require psychotropic medications during his stay. For his 
acute withdrawal symptoms, patient was initially given 
symptomatic treatment with Acetaminophen 650 mg PO Q6H:PRN and 
ibuprofen 400 mg PO Q6H:PRN for mild pain, OLANZapine 2.5 mg PO 
BID:PRN for agitation/anxiety, Ondansetron 4 mg PO/NG Q8H:PRN, 
and DICYCLOMine 20 mg PO/NG Q6H PRN for abdominal cramping. 
Patient also started on Buprenorphine-Naloxone Film (4mg-1mg) 1 
FILM SL TID. Upon initiation of Suboxone, patient's withdrawal 
symptoms dramatically improved. Suboxone was tapered down to BID 
dosing, with continued improvement of symptoms and will be 
discharged on Suboxone BID with follow-up at ___ 
___ and NA/AA f/u. At time of 
discharge patient linear thought process, no AVH or SI, and had 
improved insight/judgment.

3. SUBSTANCE USE DISORDERS:
#) Opioid Use Disorder: Patient admitted with withdrawal 
symptoms, which improved after treatment with 
Buprenorphine-Naloxone Film (4mg-1mg) 1 FILM SL. Initially 
started on TID dosing and tapered to BID dosing with plan for 
patient to continue taper in outpatient setting. Pt would 
benefit from suboxone maintenance program, so will discharge 
with script for Suboxone 4mg-1mg BID with plan for follow-up. 

#Tobacco Use Disorder: Educated about deleterious effects of 
nicotine on body and lifestyle. Provided Nicotine Patch 14 
mg/day TD DAILY during admission and at discharge.

4. MEDICAL
#) Low TSH: On admission, TSH noted to be low (0.05) with 
slightly elevated T4 (12.3) and normal T3 (190). Given 
presentation of acute psychotic episode, consulted endocrine. 
Endocrine noted that patient has no documented symptoms of 
hyperthyroidism, and his T4 is only borderline elevated which 
makes this subclincal
hyperthyroidism with unknown cause. However, explained that his 
thyroid levels are unlikely to cause an acute psychotic episode. 
Recommended no treatment at the time and follow-up with 
outpatient PCP to recheck thyroid function test in 6 weeks. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient social with select peers 
and pleasant with staff in milieu without any reported safety or 
behavioral concerns throughout stay.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
- Significant other (___): ___

#) ___
- Medications: Buprenorphine-Naloxone Film (4mg-1mg) 1 FILM SL 
BID, Nicotine Patch 14 mg/day TD DAILY 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___ for the Homeless 
at ___ (___) and ___
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
patient would benefit from attending groups for substance abuse
- Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon command ___ in 
setting of substance use.  His static factors noted at that time 
include history of suicide attempts, history of substance abuse, 
and male gender. Patient's modifiable risk factors on admission 
included suicidal ideation without plan, psychosis, disorganized 
and unpredictable behavior, medication noncompliance, lack of 
engagement with outpatient treatment, recklessness, limited 
coping skills, no established outpatient treatment, insomnia, 
lack of purpose, active substance abuse/intoxication, and 
impulsivity. The modifiable risk factors were addressed during 
inpatient stay. Finally, the patient is being discharged with 
many protective risk factors, which include help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, 
children in the home, life satisfaction, reality testing 
ability, lack of suicidal ideation, and strong social supports. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Buprenorphine-Naloxone Film (4mg-1mg) 1 FILM SL BID 
RX *buprenorphine-naloxone [Suboxone] 4 mg-1 mg 1 film(s) 
sublingually twice daily Disp #*28 Film Refills:*0 
2.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour Use 1 patch daily Daily 
Disp #*14 Patch Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder, rule out substance induced 
psychosis
Opiate use disorder, severe 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___